US08350044B2
Preparation of 2-bromo-4-methyl-thiazole-5-carboxylic acid
To a solution of 2-bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester (3.0 g, 12 mmol) in tetrahydrofuran (THF, 50 mL) and water (5 mL) was added lithium hydroxide hydrate (1.0 g, 24 mmol). The reaction mixture was stirred at ambient temperature for 16 h. The reaction mixture was diluted with water and ethyl acetate. The aqueous layer was made acidic to pH 1 with 2 N hydrochloric acid (HCl) and then was extracted with ethyl acetate. The organic extracts were dried over sodium sulfate (Na2SO4), filtered and concentrated to provide product as an orange solid (2.6 g, 98%): mp 152-155° C.; 1H NMR (300 MHz, CDCl3) δ 2.74 (s, 3H); ESIMS m/z 221 (M-1).

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester | 12 mmol, 3.0 g | C(C)OC(=O)C1=C(N=C(S1)Br)C | C7H8BrNO2S
reactant | lithium hydroxide hydrate | 24 mmol, 1.0 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-methyl-thiazole-5-carboxylic acid | 2.6 g, 98% | BrC=1SC(=C(N1)C)C(=O)O | C5H4BrNO2S
